US06939871B2
6-Fluoro-5-hydroxy-2-methylquinoline (D47)
A mixture of 2-methyl-5-methoxy-6-fluoroquinoline (2.07 g, 10.8 mmol) and 48% hydrobromic acid (30 ml) was stirred at reflux for 24 h. The reaction mix was reduced to minimum volume in vacuo and partitioned between dichloromethane (50 ml) and sat. aqueous sodium bicarbonate solution (50 ml). The organic layer was dried over sodium sulfate, filtered and evaporated in vacuo to give the title compound as a brown solid (1.39 g, 73%).

reactant | 2-methyl-5-methoxy-6-fluoroquinoline | 10.8 mmol, 2.07 g | CC1=NC2=CC=C(C(=C2C=C1)OC)F | C11H10FNO
solvent | hydrobromic acid | 30 ml | Br | BrH
product | 6-Fluoro-5-hydroxy-2-methylquinoline | 1.39 g, 73% | FC=1C(=C2C=CC(=NC2=CC1)C)O | C10H8FNO
